US07285563B2
3-[3-(Trifluoromethyl)phenyl]propylamine
To an ice-bath cooled suspension of sodium hydride (1.32 g of a 60% dispersion in oil, 33 mmol) in anhydrous tetrahydrofuran (100 ml) under a nitrogen atmosphere was added dropwise a solution of diethyl cyanomethylphosphonate (5.34 ml, 33 mmol) in tetrahydrofuran (40 ml) and the resulting mixture stirred at 0° C. for 15 minutes. To this mixture was added a solution of 3-trifluoromethylbenzaldehyde (5.22 g, 30 mmol) in anhydrous tetrahydrofuran (40 ml) and the resulting mixture stirred at room temperature for 1.5 hours. Water (300 ml) was added and the mixture extracted with ethyl acetate (3×150 ml). The combined organic layers were washed with water (2×200 ml), brine (150 ml) then dried (Na2SO4) and evaporated. The residue was taken up in a mixture of ethanol (100 ml) and ammonium hydroxide (25 ml) and hydrogenated according to the method of Description 2. Purification by column chromatography on silica eluting with 5% MeOH in dichloromethane+0.5% NH4OH gave the title compound (1.5 g, 25%) as a yellow oil.

reactant | sodium hydride | [H-].[Na+]
reactant | diethyl cyanomethylphosphonate | 33 mmol, 5.34 ml | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 3-trifluoromethylbenzaldehyde | 30 mmol, 5.22 g | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
reactant | Water | 300 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-[3-(Trifluoromethyl)phenyl]propylamine | 1.5 g, 25% | FC(C=1C=C(C=CC1)CCCN)(F)F | C10H12F3N
